US05935990
A mixture of 4-(1,3-dioxopentyl)benzenesulfonamide (160 mg, 0.63 mmol) of (Step 5), 4-fluoroaniline (65 μl, 0.69 mmol) and p-toluenesulfonic acid (6.7 mg) in toluene (25 ml) was heated at reflux for 20 hours. The reaction mixture was cooled, filtered and concentrated. The crude mixture (820 mg) was purified by chromatography (silica gel, toluene/ethyl acetate, 8/2) to give 4-[1-(4-fluorophenyl)-5-methyl-1H-pyrrol-2-yl]benzenesulfonamide (92 mg, 45%) as a white solid: mp 147-48° C. Anal Calc'd. for C17H15N2FSO2 : C, 61.14; H, 4.65; N, 8.39; S, 9.60. Found: C, 61.34; H, 4.70; N, 8.21; S, 9.63.

reactant | 4-(1,3-dioxopentyl)benzenesulfonamide | 0.63 mmol, 160 mg | O=C(CC(CC)=O)C1=CC=C(C=C1)S(=O)(=O)N | C11H13NO4S
reactant | 4-fluoroaniline | 0.69 mmol, 65 μl | FC1=CC=C(N)C=C1 | C6H6FN
reactant | p-toluenesulfonic acid | 6.7 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(4-fluorophenyl)-5-methyl-1H-pyrrol-2-yl]benzenesulfonamide | 92 mg, 45% | FC1=CC=C(C=C1)N1C(=CC=C1C)C1=CC=C(C=C1)S(=O)(=O)N | C17H15FN2O2S
